US06881844B2
A solution of 2,2,2-trifluoro-1-(1-isopropyl-6-trifluoromethyl-1H-indol-3-yl)-ethanone (800 mg, 2.48 mmol) in a 20% aqueous sodium hydroxide solution (12 mL) was heated at 110° C. for 3 h. At this time, the reaction was cooled to 25° C., partitioned between water (100 mL) and ethyl acetate (100 mL), and treated with a 1N aqueous hydrochloric acid solution (50 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 1-isopropyl-6-trifluoromethyl-1H-indole-3-carboxylic acid (704 mg, 99%) as a yellow solid: mp 177-178° C.; EI-HRMS m/e calcd for C13H12F3NO2 (M+) 271.0820, found 271.0807.

reactant | 2,2,2-trifluoro-1-(1-isopropyl-6-trifluoromethyl-1H-indol-3-yl)-ethanone | 2.48 mmol, 800 mg | FC(C(=O)C1=CN(C2=CC(=CC=C12)C(F)(F)F)C(C)C)(F)F | C14H11F6NO
reactant | sodium hydroxide | 12 mL | [OH-].[Na+]
product | 1-isopropyl-6-trifluoromethyl-1H-indole-3-carboxylic acid | 704 mg, 99% | C(C)(C)N1C=C(C2=CC=C(C=C12)C(F)(F)F)C(=O)O | C13H12F3NO2
